US06569854B1
12.5 cm3 of a 4 N aqueous sodium hydroxide solution are added, at 20° C., to 7.60 g of ethyl 1-methyl-4-piperidinecarboxylate in solution in 35 cm3 of ethanol. After stirring for 20 hours, the reaction mixture is concentrated to a reduced volume and then neutralized with 12.5 cm3 of a 4 N aqueous hydrochloric acid solution and finally concentrated to dryness under reduced pressure (2.7 kPa). The residue is stirred in 60 cm3 of anhydrous ethanol, and then filtered. The filtrate is concentrated to dryness under reduced pressure (2.7 Kpa) at 20° C., to give 6.3 g of 1-methyl-4-piperidinecarboxylic acid in the form of a white solid.

reactant | sodium hydroxide | 4 N | [OH-].[Na+]
reactant | ethyl 1-methyl-4-piperidinecarboxylate | 7.60 g | CN1CCC(CC1)C(=O)OCC | C9H17NO2
solvent | ethanol | 35 cm3 | C(C)O | C2H6O
product | 1-methyl-4-piperidinecarboxylic acid | 6.3 g | CN1CCC(CC1)C(=O)O | C7H13NO2
